US08304546B2
Lithium hydroxide mono-hydrate (31 mg, 0.74 mmol) and water (5 ml) were added to an acetonitrile solution (10 ml) of methyl 3-{2-[5-fluoro-3-(4-methoxyphenyl)-4-oxo-8-propoxy-4H-quinolin-1-yl]ethylsulfanyl}propionate (175 mg, 0.37 mmol), and the mixture was stirred at room temperature for 2 hours. The reaction mixture was washed with ethyl acetate, and then 2N hydrochloric acid was added to the water layer to make the mixture acidic. The generated insoluble matter was separated, washed with water and then dried, giving a white powder of 3-{2-[5-fluoro-3-(4-methoxyphenyl)-4-oxo-8-propoxy-4H-quinolin-1-yl]ethylsulfanyl}propionic acid (140 mg, yield: 82%).

reactant | Lithium hydroxide mono-hydrate | 0.74 mmol, 31 mg | O.[OH-].[Li+]
reactant | water | 5 ml | O | H2O
reactant | methyl 3-{2-[5-fluoro-3-(4-methoxyphenyl)-4-oxo-8-propoxy-4H-quinolin-1-yl]ethylsulfanyl}propionate | 0.37 mmol, 175 mg | FC1=C2C(C(=CN(C2=C(C=C1)OCCC)CCSCCC(=O)OC)C1=CC=C(C=C1)OC)=O | C25H28FNO5S
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 3-{2-[5-fluoro-3-(4-methoxyphenyl)-4-oxo-8-propoxy-4H-quinolin-1-yl]ethylsulfanyl}propionic acid | 140 mg, yield: 82% | FC1=C2C(C(=CN(C2=C(C=C1)OCCC)CCSCCC(=O)O)C1=CC=C(C=C1)OC)=O | C24H26FNO5S
